US06858621B2
The dehydration of 5-hydroxy-5-trifluoromethyl-3,4,5,8-tetrahydro-2H,6H-1-thia-4,8-diaza-phenanthren-7-one (69 mg, 0.23 mmol) was carried out in concentrated sulfuric acid at 150° C. The solution was cooled to about rrom temperature, added to ice water, made basic with 1M sodium carbonate, extract with ethyl acetate three times, the organic layers washed with brine, dried over sodium sulfate, filtered and the filtrate evaporated to yield 5-trifluoromethyl-3,4-dihydro-2H,8H-1-thia-4,8-diaza-phenanthren-7-one as a green solid.

reactant | 5-hydroxy-5-trifluoromethyl-3,4,5,8-tetrahydro-2H,6H-1-thia-4,8-diaza-phenanthren-7-one | 0.23 mmol, 69 mg | OC1(C2=C3NCCSC3=CC=C2NC(C1)=O)C(F)(F)F | C12H11F3N2O2S
reactant | sodium carbonate | 1M | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-trifluoromethyl-3,4-dihydro-2H,8H-1-thia-4,8-diaza-phenanthren-7-one | FC(C=1C2=C3NCCSC3=CC=C2NC(C1)=O)(F)F | C12H9F3N2OS
